US09107916B2
C. 2-[5-[(4-chloro-2-ethylphenyl)methoxy]pyrazol-1-yl]pyridine-4-carbonitrile
The title compound was prepared from 2-(5-hydroxy-1H-pyrazol-1-yl)pyridine-4-carbonitrile and (4-chloro-2-ethylphenyl)methanol according to the procedure for the preparation of Example 39, part C. 1H NMR (400 MHz, CDCl3): δ 1.23 (3H, t, J=7.6 Hz), 2.70 (2H, q, J=7.6 Hz), 5.20 (2H, s), 5.78 (1H, d, J=2.0 Hz), 7.20 (1H, dd, J=2.4 Hz, 8.4 Hz), 7.25 (1H, d, J=1.6 Hz), 7.36 (1H, d, J=8.4 Hz), 7.39 (1H, dd, J=1.6 Hz, 5.2 Hz), 7.59 (1H, d, J=2.0 Hz), 7.99 (1H, s), 8.67 (1H, d, J=4.8 Hz). [M+H] Calc'd for C18H15ClN4O, 339. Found, 339.

reactant | 2-(5-hydroxy-1H-pyrazol-1-yl)pyridine-4-carbonitrile | OC1=CC=NN1C1=NC=CC(=C1)C#N | C9H6N4O
reactant | (4-chloro-2-ethylphenyl)methanol | ClC1=CC(=C(C=C1)CO)CC | C9H11ClO
product | 2-[5-[(4-chloro-2-ethylphenyl)methoxy]pyrazol-1-yl]pyridine-4-carbonitrile | ClC1=CC(=C(C=C1)COC1=CC=NN1C1=NC=CC(=C1)C#N)CC | C18H15ClN4O
